US07355050B2
2-Methyl-acrylic acid 2,6-dimethyl-tetrahydro-oxazolo[2,3-b]oxazol-7a-ylmethyl ester
In an oven dried 300 mL round-bottom flask equipped with a reflux condenser were added 2,6-Dimethyl-tetrahydro-oxazolo[2,3-b]oxazol-7a-yl-methanol (789 g, 0.45 mol), methyl methacrylate (180.0 g, 1.80 mol), Prostab® 5415 (3.00 g, Ciba Specialty Chemicals, Basel, Switzerland) and titanium (iv) n-butoxide (6.00 g, 0.024 mol). The reaction content was heated to 110° C. for ˜8 hours GC analyses indicated ˜44% conversion. The reflux condenser was replaced with an oven dried distillation head and the distillate boiling between 60-70° C. collected. The distillation head was replaced with a reflux condenser and the reaction content heated to 120° C. for ˜4 hours, at the end of which GC analyses indicated the conversion to be ˜75%. Again the reflux condenser was replaced with a distillation head and the distillated boiling between 60-70° C. collected for ˜8 hours, at the end of which GC analyses indicated the conversion to be ˜90%. The reaction content was cooled to room temperature and the unreacted methyl methacrylate removed under vacuum and then the remaining reaction content vaccuum fractionally distilled affording four fractions:

reactant | 2,6-Dimethyl-tetrahydro-oxazolo[2,3-b]oxazol-7a-yl-methanol | 0.45 mol, 789 g | CC1CN2C(OC(C2)C)(O1)CO | C8H15NO3
reactant | methyl methacrylate | 1.80 mol, 180.0 g | C(C(=C)C)(=O)OC | C5H8O2
product | 2-Methyl-acrylic acid 2,6-dimethyl-tetrahydro-oxazolo[2,3-b]oxazol-7a-ylmethyl ester | CC1CN2C(OC(C2)C)(O1)COC(C(=C)C)=O | C12H19NO4
